### PR TITLE
[Merged by Bors] - chore(ModelTheory): process some porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/Fraisse.lean [hunk 1]
```diff
@@ -192,13 +192,12 @@ theorem age.countable_quotient [h : Countable M] : (Quotient.mk' '' L.age M).Cou
     exact ⟨⟨(fg_iff_structure_fg _).1 (fg_closure s.finite_toSet), ⟨Substructure.subtype _⟩⟩, hs⟩
   · simp only [mem_range, Quotient.eq]
     rintro ⟨P, ⟨⟨s, hs⟩, ⟨PM⟩⟩, hP2⟩
-    have : P ≈ N := by apply Quotient.eq'.mp; rw [hP2]; rfl -- Porting note: added
-    refine ⟨s.image PM, Setoid.trans (b := P) ?_ this⟩
+    refine ⟨s.image PM, Setoid.trans (b := P) ?_ <| Quotient.exact hP2⟩
     rw [← Embedding.coe_toHom, Finset.coe_image, closure_image PM.toHom, hs, ← Hom.range_eq_map]
     exact ⟨PM.equivRange.symm⟩
 
+-- This is not a simp-lemma because it is not in simp normal form.
```
Comment (Vierkantor) [inline Mathlib/ModelTheory/Fraisse.lean:199]: If I'm reading the comment correctly, should this not be:
```suggestion
-- This is not a simp-lemma because it does not apply to itself.
```

**Review by Vierkantor — APPROVED** [review]
LGTM otherwise.

bors d+
